US04683276
A mixture of 134.0 grams (1.0 mole) of p-isopropenylphenol and 186.0 grams (2.0 moles) of aniline was stirred and heated to 150° C. To the mixture was added 5.0 grams of a solution obtained by adding 1.28 grams of 10% hydrochloric acid to 93 grams of aniline and stirring the mixture well. The reaction was carried out for 3.0 hours (10,800 s) at the 150° C. reaction temperature. The reaction product was cooled to 120° C. then 350 milliliters of toluene was added. The product was then cooled to 25° C. and the solid precipitated product was recovered by filtration. The crude product was slurried into 350 milliliters of methanol and heated to a reflux then maintained for 15 minutes (900 s). After cooling, the product was recovered by filtration and dried under vacuum to yield 4-(1-(4-aminophenyl)-1-methylethyl)phenol as a white powder.

reactant | p-isopropenylphenol | 1.0 mole, 134.0 grams | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
reactant | aniline | 2.0 moles, 186.0 grams | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 1.28 grams | Cl | ClH
reactant | aniline | 93 grams | NC1=CC=CC=C1 | C6H7N
solvent | toluene | 350 milliliters | C1(=CC=CC=C1)C | C7H8
product | 4-(1-(4-aminophenyl)-1-methylethyl)phenol | NC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H17NO
